US09079853B2
3-hydroxy-1-isobutyl-3-(2-(6-methoxypyridin-2-yl)-2-oxoethyl)-5-methylindolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 1-isobutyl-5-methylindoline-2,3-dione and commercially available 1-(6-methoxypyridin-2-yl)ethanone (purchased from Fisher Scientific). 1H-NMR δ 7.70 (m, 2H), 7.19 (d, 1H), 7.10 (d, 1H), 6.97 (dd, 1H), 6.75 (d, 1H), 5.39 (s, OH), 4.02-3.98 (m, 4H), 3.56-3.42 (m, 3H), 2.30 (s, 3H), 2.16 (m, 1H), 0.97 (dd, 6H). calculated mass for C21H24N2O4, 368.17, observed, 391.1 (M+Na).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 1-isobutyl-5-methylindoline-2,3-dione | C(C(C)C)N1C(C(C2=CC(=CC=C12)C)=O)=O | C13H15NO2
reactant | 1-(6-methoxypyridin-2-yl)ethanone | COC1=CC=CC(=N1)C(C)=O | C8H9NO2
product | 3-hydroxy-1-isobutyl-3-(2-(6-methoxypyridin-2-yl)-2-oxoethyl)-5-methylindolin-2-one | OC1(C(N(C2=CC=C(C=C12)C)CC(C)C)=O)CC(=O)C1=NC(=CC=C1)OC | C21H24N2O4
